US06908884B2
A solution of 10.15 g (43 mmol) of methyl 3,4-dimethylbenzo-thiazol-2-one-5-carboxylate in 100 ml of tetrahydrofuran and 100 ml of water was admixed with 2.06 g (86 mmol) of lithium hydroxide. The solution was then heated at reflux for 2 hours. After cooling, the tetrahydrofuran was removed under reduced pressure, the remaining aqueous solution was acidified and the precipitated solid was filtered off with suction and dried. More product was obtained by extracting the mother liquor with ethyl acetate. This gave a total of 8 g (36 mmol, 83% yield) of 3,4-dimethylbenzothiazol-2-one-5-carboxylic acid of m.p. 235° C.-239° C.

reactant | methyl 3,4-dimethylbenzo-thiazol-2-one-5-carboxylate | 43 mmol, 10.15 g | CN1C(SC2=C1C(=C(C=C2)C(=O)OC)C)=O | C11H11NO3S
reactant | lithium hydroxide | 86 mmol, 2.06 g | [OH-].[Li+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 3,4-dimethylbenzothiazol-2-one-5-carboxylic acid | 36 mmol, 8 g, 83% yield | CN1C(SC2=C1C(=C(C=C2)C(=O)O)C)=O | C10H9NO3S
